US09303035B2
Step 3: 6-(2-((tert-Butyldimethylsilyl)oxy)-3-(1,3-dioxoisoindolin-2-yl)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Cesium carbonate (115 mg, 0.351 mmol) was added to a solution of 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (Intermediate Gc) (53.4 mg, 0.176 mmol) and 2-(3-bromo-2-((tert-butyldimethylsilyl)oxy)propyl)isoindoline-1,3-dione (70 mg, 0.176 mmol) in N,N-dimethylacetamide (1273 μl). The mixture was heated at 50° C. for 18 hours, then cooled to room temperature and diluted with water (30 ml). The mixture was extracted with ethyl acetate (3×30 ml), the combined organic extracts were washed with brine (90 ml), dried over sodium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane, afforded the title compound.

reactant | Cesium carbonate | 0.351 mmol, 115 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.176 mmol, 53.4 mg | CN1C(N(C(C=2C1=CNC2C=2SC=C(N2)C)=O)C)=O | C12H12N4O2S
reactant | 2-(3-bromo-2-((tert-butyldimethylsilyl)oxy)propyl)isoindoline-1,3-dione | 0.176 mmol, 70 mg | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)O[Si](C)(C)C(C)(C)C | C17H24BrNO3Si
solvent | N,N-dimethylacetamide | 1273 μl | CN(C(C)=O)C | C4H9NO
solvent | water | 30 ml | O | H2O
product | 6-(2-((tert-Butyldimethylsilyl)oxy)-3-(1,3-dioxoisoindolin-2-yl)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | [Si](C)(C)(C(C)(C)C)OC(CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)CN1C(C2=CC=CC=C2C1=O)=O | C29H35N5O5SSi
